### PR TITLE
feat(fields): add fast Mersenne31 arithmetic

### PR DESCRIPTION
**Pull request by varunthakore**

### CODE REVIEW

**Review by MavenRain — APPROVED** [review]
A couple of things:

1.  Consider adding tests for `Mersenne31.Fast`
2. Mersenne.lean is still referenced in the docs.  Consider updating.
3. Consider extracting the four `have` blocks duplicated between `reduceUInt64_cast` and `reduceUInt64Raw_lt` into a private lemma.

File: CompPoly/Fields/Mersenne31/Fast.lean [hunk 1]
```diff
@@ -0,0 +1,994 @@
...
+  rw [Nat.cast_add]
+
+/-- Fast modular subtraction, using `x - y` when no underflow occurs and
+`x + p - y` otherwise. -/
+@[inline]
+def sub (x y : Field) : Field :=
+  if hxy : x.val ≥ y.val then
+    ⟨x.val - y.val, by
+      have hy_le_x : y.val.toNat ≤ x.val.toNat := by
+        simpa [UInt32.le_iff_toNat_le] using hxy
```
Comment (dhsorens) [inline CompPoly/Fields/Mersenne31/Fast.lean:408]: **Build break.** CI fails here: `simpa` leaves `hxy : y.val ≤ x.val` where the goal wants `y.val.toNat ≤ x.val.toNat`.

Please rewrite with an explicit `UInt32.le_iff_toNat_le` (or avoid `simpa`). This also leaves `toField_sub` with a `sorry` warning.

File: CompPoly/Fields/Mersenne31/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+import CompPoly.Fields.PrattCertificate
+
+/-!
+  # Mersenne prime field `2^{31} - 1`
+
+  This is the field used in Circle STARKs.
+-/
+
+namespace Mersenne31
+namespace Basic
```
Comment (dhsorens) [inline CompPoly/Fields/Mersenne31/Basic.lean:17]: **Namespace.** Prefer `namespace Mersenne31` only (like BabyBear/KoalaBear), so the public type is `Mersenne31.Field` / `Mersenne31.fieldSize`, not `Mersenne31.Basic.Field`.

Old `Mersenne.lean` used `Mersenne31.Field` — keep that name.

File: CompPoly/Fields/Mersenne31/Fast.lean [hunk 3]
```diff
@@ -0,0 +1,994 @@
...
+/-- The fast native-word Mersenne31 field carrier, stored as a canonical `UInt32`
+representative below the prime modulus. -/
+abbrev Field : Type := { x : UInt32 // x.toNat < Mersenne31.Basic.fieldSize }
+
+/-- Fast representatives have decidable equality through their `UInt32` value. -/
+instance : DecidableEq Field := inferInstance
+
+/-- The Mersenne31 prime `2^31 - 1` as a native `UInt32`. -/
+@[inline]
+def modulus : UInt32 := 2147483647
```
Comment (dhsorens) [inline CompPoly/Fields/Mersenne31/Fast.lean:37]: **Nit:** use hex for native constants, matching siblings (`0x7FFFFFFF` / `0x7FFFFFFF` for `modulus64`). Decimal `2147483647` is harder to scan as a Mersenne modulus.

File: CompPoly/Fields/Mersenne31/Fast.lean [hunk 4]
```diff
@@ -0,0 +1,994 @@
...
+  exact hsum_lt_two_fieldSize
+
+/-- Reduce a bounded `UInt64` modulo Mersenne31. -/
+@[inline]
+private def reduceUInt64 (x : UInt64)
+    (h : x.toNat < Mersenne31.Basic.fieldSize * Mersenne31.Basic.fieldSize) : Field :=
+  ⟨reduceUInt64Raw x, reduceUInt64Raw_lt x h⟩
+
+/-- Bounded `UInt64` reduction preserves the represented canonical field element. -/
+private theorem reduceUInt64_cast (x : UInt64)
```
Comment (dhsorens) [inline CompPoly/Fields/Mersenne31/Fast.lean:572]: **Dup:** the bound/`have` blocks here are copy-pasted from `reduceUInt64Raw_lt` above. Extract a private lemma for the split-sum bounds and reuse it in both places.

File: CompPoly/Fields/Mersenne31.lean [hunk 5]
```diff
@@ -0,0 +1,16 @@
...
+Authors: Quang Dao, Varun Thakore
+-/
+
+import CompPoly.Fields.Mersenne31.Basic
+import CompPoly.Fields.Mersenne31.Fast
+
+/-!
+  # Mersenne31 prime field `2^{31} - 1`
+
+  Facade module for the Mersenne31 field. It re-exports the canonical `ZMod` model
```
Comment (dhsorens) [inline CompPoly/Fields/Mersenne31.lean:13]: **Follow-ups (not in this file, but needed for the PR):**
1. Add `tests/CompPolyTests/Fields/Mersenne31/Fast.lean` mirroring Koala/Baby `#guard` coverage (zero/one, wrap, ±, mul, pow, inv, int powers).
2. Update `CompPoly/Fields/README.md` (`Mersenne.lean` → `Mersenne31/`).
3. Rebase onto current main (post-#258 Montgomery + Lean 4.32).
4. Optional: thin deprecated `CompPoly/Fields/Mersenne.lean` re-export so old imports keep working.

**Review by dhsorens — CHANGES_REQUESTED** [review]
## Summary

Solid Fast track: Mersenne reduction (not Montgomery) is the right call for `2^31-1`, and the `toField_*` / `ringEquiv` / inv addition-chain proofs are in good shape.

**Blockers before merge:** green CI, rebase onto current main, and a `#guard` test file matching BabyBear/KoalaBear Fast.

Inline notes are the actionable items.

**Review by dhsorens — APPROVED** [review]
All requested review changes are addressed. The generated compatibility import is restored, and local build, tests, style lint, documentation integrity, and import validation pass on the merged-main head.

**Comment by dhsorens** [comment]
thanks @varunthakore for the contribution!
